US08476297B2
Step 3. 2-Benzyl-4,4-difluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline
To a stirred solution of borane tetrahydrofuran complex (1M in THF, 0.750 mL, 0.750 mmol) in 5 mL of THF, 2-benzyl-4,4-difluoro-1-(4-(trifluoromethyl)-phenyl)-1,2-dihydroisoquinolin-3(4H)-one (0.103 g, 0.246 mmol) in a total of 5 mL THF was added dropwise. The clear solution was refluxed for 5 h. After the reaction mixture was cooled to 0° C., 5 mL of 5 N hydrochloric acid was added. The solution was stirred at 0° C. to RT over 1 h. Then the most organic solvent was evaporated and the pH was adjusted to ˜8 by solid sodium bicarbonate. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with water and saturated aqueous sodium chloride. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a white solid. 11-1 NMR (300 MHz, CHLOROFORM-d) δ ppm 7.76 (d, J=7.75 Hz, 1H) 7.62 (d, J=8.18 Hz, 2H) 7.46 (d, J=8.04 Hz, 2H) 7.28-7.42 (m, 7H) 6.77 (d, J=7.75 Hz, 1H) 4.80 (d, J=3.65 Hz, 1H) 3.82 (dd, J=13.59, 1.75 Hz, 1H) 3.37-3.54 (m, 2H) 2.87-3.06 (m, 1H).

reactant | borane tetrahydrofuran | 0.750 mmol, 1M, 0.750 mL | O1CCCC1.B
reactant | 2-benzyl-4,4-difluoro-1-(4-(trifluoromethyl)-phenyl)-1,2-dihydroisoquinolin-3(4H)-one | 0.246 mmol, 0.103 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C(C1=O)(F)F)C1=CC=C(C=C1)C(F)(F)F | C23H16F5NO
reactant | hydrochloric acid | 5 N, 5 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Benzyl-4,4-difluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C(C1)(F)F)C1=CC=C(C=C1)C(F)(F)F | C23H18F5N
